* sg13g2-bandgap -- bandgap_core + bandgap_amp + bandgap_startup
* co-simulated closed-loop quiescent supply current (Iq) testbench (issue
* #95, follow-on to #86/#88). Generated from
* sim/closed-loop-iq/testbench/tb_closed_loop_iq.spice.tmpl
* by sim/closed-loop-iq/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full rationale is in sim/closed-loop-iq/README.md.
*
* Generated for: corner=wcs temp=27C vdd=3.30V
* DUT git sha (design/netlist/bandgap_core.spice,
* design/netlist/bandgap_amp.spice and design/netlist/bandgap_startup.spice
* this was copied from):
*   core=d83f7c4 amp=397fe2d startup=66ac99d
* PDK: ihp-sg13g2 /private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk (see sim/pdk.json for the pinned release)
* OSDI models: /private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* This is the SAME co-simulated topology sim/closed-loop-startup/ and
* sim/closed-loop-vref-pvt/ use (all three DUTs copied verbatim, wired
* exactly as design/bandgap_top.sch specifies -- see
* sim/closed-loop-startup/testbench/tb_closed_loop_startup.spice.tmpl's own
* header for the full device-copy rationale, not repeated here). This
* testbench's own claim is different again: not "does it start and close
* the loop" (sim/closed-loop-startup) and not "what DC value does vref
* settle to" (sim/closed-loop-vref-pvt), but "how much total quiescent
* current does the assembled block draw from vdd once it has settled". The
* vdd ramp is held to 3 ms (matching sim/closed-loop-vref-pvt, not
* sim/closed-loop-startup's 2 ms) and i(Vvdd) -- the fixture ammeter every
* testbench in this tree already has, since Vvdd is the supply source
* itself -- is measured at BOTH t=2ms and t=3ms plus averaged over
* [2ms,3ms], so run_pvt_sweep.sh can confirm the current has genuinely
* stopped moving before reporting it as this experiment's headline number.

.lib "/private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_wcs
.lib "/private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_ss
.lib "/private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_wcs

* rshunt=1e9 / gmin=1e-9: the same convergence aids sim/closed-loop-startup
* needed at a handful of PVT corners during the very early (sub-1V) part of
* the vdd ramp, where bandgap_core's diode-connected npn13G2 legs sit at a
* genuinely near-singular, near-zero-bias operating point before any real
* current has been established -- see that experiment's README "A real
* numerical finding" section for the full whack-a-mole derivation of this
* exact pair of values. This testbench drives the same three DUTs through
* the same kind of ramp, so it inherits the same numerical stiffness at the
* same early instant and needs the same aids.
*
* reltol=5e-3 + a smaller initial .tran step (below, 50n vs the prior 2u):
* issue #151 -- once bandgap_core's M2/M3 mirror legs are decomposed
* (issue #149), directly re-confirmed here that this testbench hits the
* identical "Timestep too small ... trouble with xq3:npn13g2 vbic-instance"
* failure sim/closed-loop-vref-pvt's own header describes (4 of 5 process
* corners at -40C: bcs/wcs/sf/fs, all 3 supplies -- reproduced directly
* against this file before applying either aid). Same root cause (extra
* simultaneously-degenerate parallel devices at the same near-singular
* early-ramp instant, ~30-100us in) and the same fix -- see
* sim/closed-loop-vref-pvt/testbench/tb_closed_loop_vref.spice.tmpl's own
* header for the full whack-a-mole derivation of this exact pair of values,
* not repeated here.
.options temp=27 tnom=27 rshunt=1e9 gmin=1e-9 reltol=5e-3

* FIXTURE -- transient supply ramp: vdd ramps 0 -> VDD over 200 us (same
* rise sim/closed-loop-startup and sim/closed-loop-vref-pvt use) and holds
* to 3 ms (matching sim/closed-loop-vref-pvt's 3 ms hold, one longer than
* sim/closed-loop-startup's 2 ms) so this testbench can measure i(Vvdd) at
* two separated time points (2 ms and 3 ms) and confirm it has stopped
* moving between them before trusting it as a settled quiescent value.
Vvdd vdd 0 PWL(0 0 200u 3.30 3m 3.30)
Vvss vss 0 dc 0
* both bandgap_core.spice and bandgap_amp.spice wire their resistor bulk
* terminals (rppd inside the core) to the global substrate net `sub!`,
* the same convention every testbench in this tree uses.
Vsub sub! vss dc 0

* DUT -- design/netlist/bandgap_core.spice, verbatim. M2/M3 decomposed into
* per-leg-distinct counts (1/2/3) of dominant-plus-trim-finger sg13_hv_pmos
* instances (issue #149, T1 tracker #4 item 4 cause (d) -- breaks the
* M1/M2/M3 LVS graph automorphism at the schematic level; each branch's
* total mirror W/L stays 10u/1u nominally -- see
* sim/closed-loop-vref-pvt/testbench/tb_closed_loop_vref.spice.tmpl's own
* header for the fuller rationale and the {1,2,3} split's not-quite-exact
* electrical caveat, not repeated here).
XM1 sns1 fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQ1 sns1 sns1 vss vss npn13G2 Nx=1
XM2A sns2 fb vdd vdd sg13_hv_pmos w=9u l=1u ng=1 m=1
XM2B sns2 fb vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=1
XR2 sns2 cb2 sub! rppd w=2u l=82.7u m=1 b=0
XQ2 cb2 cb2 vss vss npn13G2 Nx=8
XM3A vref fb vdd vdd sg13_hv_pmos w=8u l=1u ng=1 m=1
XM3B vref fb vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=1
XM3C vref fb vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=1
XR1 vref cb3 sub! rppd w=2u l=511u m=1 b=0
XQ3 cb3 cb3 vss vss npn13G2 Nx=1

* DUT -- design/netlist/bandgap_amp.spice, verbatim. in_p <- sns2
* (non-inverting), in_n <- sns1 (inverting), out -> fb -- see
* design/bandgap_amp.sch's own header "polarity" section for the
* derivation of which sense node is which input.
XMTAIL tail fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP1 d1 sns2 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP2 d2 sns1 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP3 pn pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP4 fb pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMN1 d1 d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN2 d2 d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN3 fb d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN4 pn d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1

* DUT -- design/netlist/bandgap_startup.spice, verbatim. `sns1` and `fb`
* are shared with the core and amp DUTs above -- the nodes the assembled
* block actually connects. No separate stimulus source drives either one.
*
* FIXTURE -- Vmkfb is a 0 V ammeter in series with XMKFB's drain, so the
* startup circuit's own contribution to the shared fb node can be measured
* directly (i_mkfb below) rather than inferred from fb's voltage alone. A
* 0 V source is a DC/transient short and does not move the operating point.
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1
Vmkfb fb fbx dc 0
XMKFB fbx det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1

.control
pre_osdi /private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /private/tmp/ihp-pdk-fetch/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
tran 50n 3m
* Loop-closure / startup-release sanity (same criteria/sense as
* sim/closed-loop-startup and sim/closed-loop-vref-pvt, evaluated here at
* t=3ms) -- prerequisite for trusting the i(Vvdd) reading below as a real
* closed-loop quiescent operating point rather than a still-starting or
* railed transient.
meas tran v_fb_v find v(fb) at=3m
meas tran v_sns1_v find v(sns1) at=3m
meas tran v_sns2_v find v(sns2) at=3m
meas tran v_det_v find v(det) at=3m
meas tran i_mkfb_v find i(Vmkfb) at=3m
* The claim under test: total vdd supply current at two separated time
* points, plus its average over the same [2ms,3ms] window, so
* run_pvt_sweep.sh can confirm it has stopped moving (a real settled
* quiescent value, not a still-slewing snapshot) before reporting it. Vvdd
* is an independent voltage source, so ngspice's passive sign convention
* reports i(Vvdd) negative while the source is delivering (not absorbing)
* current to the circuit -- run_pvt_sweep.sh takes the absolute value.
meas tran i_vdd_2ms find i(Vvdd) at=2m
meas tran i_vdd_3ms find i(Vvdd) at=3m
meas tran i_vdd_avg avg i(Vvdd) from=2m to=3m
.endc
.end
